US06472227B1
Dimethyl 2-(5-hexenyl)-2-(3-methylcyclohexyl)-malonate
To a slurry of sodium hydride (2.53 g, 0.06 mol) in anhydrous N,N-dimethylformamide (50 mL) was added dropwise dimethyl 2-(3-methylcyclohexyl)-malonate (14.46 g, 0.06 mol). After complete addition, the reaction was stirred until no more hydrogen gas was evolved. To the reaction was then added dropwise 1-bromo-6-hexene (10.33 g, 0.06 mol) followed by stirring. The progress of the reaction was followed by analytical chromatography using silica plates and ethyl acetate:hexanes (40:60). After complete reaction, water (20 mL) was added and most of the solvents removed under high vacuum. The remaining material was partitioned between water and ether and the ether layer washed twice with water. The ether solution was dried with MgSO4 and evaporated to give a thick yellow oil. The product was then distilled at 127-134° C. and 0.4 mm pressure to give clear oil.

reactant | sodium hydride | 0.06 mol, 2.53 g | [H-].[Na+]
reactant | dimethyl 2-(3-methylcyclohexyl)-malonate | 0.06 mol, 14.46 g | CC1CC(CCC1)C(C(=O)OC)C(=O)OC | C12H20O4
reactant | hydrogen | [H][H] | H2
reactant | water | 20 mL | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | Dimethyl 2-(5-hexenyl)-2-(3-methylcyclohexyl)-malonate | C(CCCC=C)C(C(=O)OC)(C(=O)OC)C1CC(CCC1)C | C18H30O4
